US07838525B2
Preparation of 4-[5-Carbamimidoyl-6-(2-fluoro-4-methanesulfonyl-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound A100)
4-[6-(2-Fluoro-4-methanesulfonyl-phenylamino)-5-(N-hydroxycarbamimidoyl)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (0.510 g, 0816 mmol) was dissolved in acetic acid glacial (20 mL) and zinc dust (1 g, 16.32 mmol) was added. The reaction mixture was heated at 70° C. for 40 min. The crude was filtered, the filtrate was concentrated under reduced pressure and the residue was purified by HPLC to afford Compound A100 (43 mg, 8.65%). Exact mass calculated for C21H27FN6O5S 494.17, found 495.5 (MH+).

reactant | 4-[6-(2-Fluoro-4-methanesulfonyl-phenylamino)-5-(N-hydroxycarbamimidoyl)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 0.510 g | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C(NO)=N)NC1=C(C=C(C=C1)S(=O)(=O)C)F | C21H27FN6O6S
solvent | acetic acid glacial | 20 mL | CC(=O)[O-]
catalyst | zinc | 16.32 mmol, 1 g | [Zn] | Zn
product | 4-[5-Carbamimidoyl-6-(2-fluoro-4-methanesulfonyl-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C(N)=N)NC1=C(C=C(C=C1)S(=O)(=O)C)F | C21H27FN6O5S
